US08877739B2
Synthesis of N5-(3-chloro-2-methyl-5-sulfophenyl)-L-glutamine (Compound No. 22)
After 2 ml of DMF and 0.52 ml (3 mmol) of DIEA were added to 303 mg (1 mmol) of Boc-Glu-OtBu hydrochloride, 221 mg (1 mmol) of 3-amino-5-chloro-4-methylbenzenesulfonic acid, 160 mg (1.3 mmol) of HOAt and 410 mg (1.3 mmol) of HATU, the mixture was stirred at room temperature overnight. The reaction solution was diluted in water-acetonitrile and purified in accordance with the purification step A to give the protected form of the product. The protected product obtained was dissolved in 5 ml of trifluoroacetic acid and stirred for 2 hours. After the solvent was removed by distillation, the mixture was purified in accordance with the purification step A to give the title compound.

reactant | DIEA | 3 mmol, 0.52 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc-Glu-OtBu hydrochloride | 1 mmol, 303 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C.Cl
reactant | 3-amino-5-chloro-4-methylbenzenesulfonic acid | 1 mmol, 221 mg | NC=1C=C(C=C(C1C)Cl)S(=O)(=O)O | C7H8ClNO3S
reactant | HOAt | 1.3 mmol, 160 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | HATU | 1.3 mmol, 410 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | water acetonitrile | O.C(C)#N
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N5-(3-chloro-2-methyl-5-sulfophenyl)-L-glutamine | ClC=1C(=C(C=C(C1)S(=O)(=O)O)NC(CC[C@H](N)C(=O)O)=O)C | C12H15ClN2O6S
